US07910592B2
Triethylamine (123.4 mg, 170 μL, 1.21 mmol) was added to a stirred solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)prop-2-yn-1-yl]-4-methyl-1,3-oxazolidin-2-one (21.9 mg, 0.0423 mmol) and N-hydroxyethanimidoyl chloride (124.4 mg, 1.33 mmol) in dry toluene (2 mL) at room temperature under N2. The reaction was heated at reflux for 2 days. The reaction mixture was cooled to room temperature, diluted with 1N HCl and extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-30% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methylisoxazol-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.38 (20% EtOAc/hexanes). LCMS calc.=575.2; found=575.3 (M+1)+. 1H NMR (600 MHz, CDCl3): δ 7.84 (s, 1H); 7.64 (s, 2H); 7.31 (d, J=8.3 Hz, 1H); 6.68 (d, J=11.8 Hz, 1H); 5.27 (d, J=8.0 Hz, 1H); 4.78 (d, J=15.6 Hz, 1H); 4.00 (d, J=15.6 Hz, 1H); 3.82 (s, 3H); 3.72-3.68 (m, 1H); 3.22-3.16 (m, 1H); 2.38 (s, 3H); 1.24 (d, J=7.0 Hz, 3H); 1.22 (d, J=7.0 Hz, 3H); 0.42 (d, J=6.6 Hz, 3H).

reactant | Triethylamine | 1.21 mmol, 170 μL, 123.4 mg | C(C)N(CC)CC | C6H15N
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)prop-2-yn-1-yl]-4-methyl-1,3-oxazolidin-2-one | 0.0423 mmol, 21.9 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC#CC1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C25H22F7NO3
reactant | N-hydroxyethanimidoyl chloride | 1.33 mmol, 124.4 mg | ON=C(C)Cl | C2H4ClNO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 1N | Cl | ClH
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-methylisoxazol-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C(=NOC1C1=C(C=C(C(=C1)C(C)C)F)OC)C)C)(F)F | C27H25F7N2O4
